US04701459
A solution of borane:tetrahydrofuran complex (25.8 g, 0.3 mole) in tetrahydrofuran (THF) (300 mL) was added dropwise to a stirred solution of 5-chloro-2-nitrobenzoic acid (50.0 g, 0.24 mole) in dry THF (400 mL) maintained at 0° C. under an atmosphere of nitrogen. After completion of the addition, the mixture was heated at 50° C. for 96 hours before being cooled in an ice bath. Hydrochloric acid (10% solution) was added dropwise and the mixture refluxed for 30 minutes. The THF was removed in vacuo and the residue extracted with dichloromethane (3×350 mL). Combined extracts were washed with saturated sodium bicarbonate solution, dried over magnesium sulfate and the solvent evaporated to give a solid (45 g, 100%), crystallization from chloroform-hexane gave 5-chloro-2-nitro-benzenemethanol (41.0 g, 91%) mp 79°-81° C.

reactant | borane | B | BH3
reactant | 5-chloro-2-nitrobenzoic acid | 0.24 mole, 50.0 g | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | THF | 400 mL | O1CCCC1 | C4H8O
product | 5-chloro-2-nitro-benzenemethanol | 41.0 g, 91% | ClC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C7H6ClNO3
